US04131751
3,4-difluorophenyl isocyanate
At -10° to 0° and while stirring, 120 g of 3,4-difluoroaniline (J. Chem. Soc., 73, 5884-5, 1951) is metered into a solution of 180 parts by weight of phosgene in 1,100 parts by weight of chloronaphthalene. The reaction mixture is then slowly heated to 150° C. while passing in additional phosgene, and phosgenated for 2 hours at this temperature. Excess phosgene is expelled with nitrogen and the isocyanate distilled from the solution; b.p. (30 mm Hg): 79°-85° C.

reactant | 3,4-difluoroaniline | 120 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | chloronaphthalene | ClC1=CC=CC2=CC=CC=C12 | C10H7Cl
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 3,4-difluorophenyl isocyanate | FC=1C=C(C=CC1F)N=C=O | C7H3F2NO
